US08026234B2
Compound 135: 9-cyclopentyl-2-(4-(4-(cyclopropylmethyl)piperazine-1-carbonyl)-5-fluoro-2-methoxyphenylamino)-7,7-difluoro-5-methyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one
The title compound was synthesized from 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxybenzoic acid as described in the general procedure for amide bond synthesis using HATU and 1-(cyclopropylmethyl)piperazine. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.07 (d, J=4.55 Hz, 2H) 0.45 (d, J=8.08 Hz, 2H) 0.75-0.87 (m, 1H) 1.47-1.77 (m, 6H) 1.92 (br. s., 2H) 2.20 (d, J=6.57 Hz, 2H) 2.32-2.43 (m, 2H) 3.22-3.31 (m, 2H) 3.64 (br. s., 2H) 3.88 (s, 3H) 4.06 (t, J=13.77 Hz, 3H) 4.70-4.84 (m, 1H) 6.97 (d, J=6.06 Hz, 1H) 8.04 (s, 1H) 8.16 (d, J=11.87 Hz, 1H) 8.28 (s, 1H). [M+H] calculated for C29H36F3N7O3, 588. found 588.

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxybenzoic acid | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC(=C(C(=O)O)C=C2OC)F | C21H22F3N5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(cyclopropylmethyl)piperazine | C1(CC1)CN1CCNCC1 | C8H16N2
product | 9-cyclopentyl-2-(4-(4-(cyclopropylmethyl)piperazine-1-carbonyl)-5-fluoro-2-methoxyphenylamino)-7,7-difluoro-5-methyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=C2)F)C(=O)N2CCN(CC2)CC2CC2)OC | C29H36F3N7O3
